US07727985B2
4-((S)-2-Acetylamino-propyl)-6,6-dimethyl-morpholine-3-(S)-carboxylic acid (6-chloro-9H-b-carbolin-8-yl)-amide
The desired compound was prepared according to the previous example from 4-(2-Amino-propyl)-6,6-dimethyl-morpholine-3-carboxylic acid (6-chloro-9H-β-carbolin-8yl)-amide (3 CF3COOH salt) and acetic anhydride.

reactant | 4-(2-Amino-propyl)-6,6-dimethyl-morpholine-3-carboxylic acid (6-chloro-9H-β-carbolin-8yl)-amide | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)C1N(CC(OC1)(C)C)CC(C)N | C21H26ClN5O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 4-((S)-2-Acetylamino-propyl)-6,6-dimethyl-morpholine-3-(S)-carboxylic acid (6-chloro-9H-b-carbolin-8-yl)-amide | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)[C@H]1N(CC(OC1)(C)C)C[C@H](C)NC(C)=O | C23H28ClN5O3
